US04055410
A suspension of 7 g of anhydrous potassium carbonate, 7.3 g of N-(2-methoxyphenylaminomethyl)-2,4-thiazolidinedione, and 5.3 g of chloroacetyl chloride in 50 ml of chloroform was cooled in an ice bath and stirred at ambient temperature for 48 hrs. The resulting precipitate was filtered, washed with water and recrystallized from nitromethane-ethanol to give 5.6 g of 2-chloro-N-(2,4-dioxothiazolidin-3-ylmethyl)-N-(2-methoxyphenyl)acetamide; mp 188°-191° C; M+ = 328.

reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-methoxyphenylaminomethyl)-2,4-thiazolidinedione | 7.3 g | COC1=C(C=CC=C1)NCN1C(SCC1=O)=O | C11H12N2O3S
reactant | chloroacetyl chloride | 5.3 g | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-N-(2,4-dioxothiazolidin-3-ylmethyl)-N-(2-methoxyphenyl)acetamide | 5.6 g | ClCC(=O)N(C1=C(C=CC=C1)OC)CN1C(SCC1=O)=O | C13H13ClN2O4S
